US04438128
1-(4-Benzyloxyphenoxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol
5.12 g. 4-Benzyloxyphenyl glycidyl ether and 6.56 g. N-(2,6-dimethylphenyl)-ethylenediamine are heated for 20 hours at 70° C., while stirring. The reaction mixture is worked up by ion exchanger chromatography, using "Amberlite" CG 50 II pract. (Serva) in the manner described in Example 5. There are obtained 6.8 g. (81% of theory) of the desired product in the form of a light colored, viscous oil.

reactant | 4-Benzyloxyphenyl glycidyl ether | C(C1CO1)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C16H16O3
reactant | N-(2,6-dimethylphenyl)-ethylenediamine | CC1=C(C(=CC=C1)C)NCCN | C10H16N2
product | 1-(4-Benzyloxyphenoxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol | C(C1=CC=CC=C1)OC1=CC=C(OCC(CNCCNC2=C(C=CC=C2C)C)O)C=C1 | C26H32N2O3
